US05342959
(b) (S)-(-)-2-Nitro-1-(2-oxiranylmethyl)-1H-imidazole
Alternatively, reaction of 0.56 g of (S)-(+)-α-(chloromethyl)-2-nitro-1H-imidazole-1-ethanol with 3 mL of 10% aqueous sodium hydroxide at 25° C. for 30 minutes followed by further processing as above gives 0.3 g of the product.

reactant | (S)-(+)-α-(chloromethyl)-2-nitro-1H-imidazole-1-ethanol | 0.56 g | ClC[C@H](CN1C(=NC=C1)[N+](=O)[O-])O | C6H8ClN3O3
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
product | (S)-(-)-2-Nitro-1-(2-oxiranylmethyl)-1H-imidazole | 0.3 g | [N+](=O)([O-])C=1N(C=CN1)C[C@@H]1OC1 | C6H7N3O3
